US08012998B2
j) [(3R,4S)-3-[(R)-1-(5-Chloro-pyridin-2-yloxy)-2-hydroxy-ethyl]-4-(3,4-difluoro-phenyl)-pyrrolidin-1-yl]-(2-methyl-pyrimidin-5-yl)-methanone
To a solution of [(3R,4S)-3-[(R)-2-(tert-butyl-dimethyl-silanyloxy)-1-(5-chloro-pyridin-2-yloxy)-ethyl]-4-(3,4-difluoro-phenyl)-pyrrolidin-1-yl]-(6-methyl-pyridazin-4-yl)-methanone (0.050 g, 0.085 mmol) dissolved in THF (4 mL) was added 0.10 mL of TBAF (1.0M in THF). The reaction mixture was stirred over night at room temperature. The mixture was diluted with ethyl acetate and washed with water and aq. sodium bicarbonate solution subsequently. The separated organic phase was dried over sodium sulfate and concentrated in vaccuo after filtration. The residue was purified by TLC (SiO2, MeOH/DCM, 1:10) yielded 40 mg (84%) of the title compound as a light yellow oil. ES-MS m/e: 475.1 (M+H+).

reactant | [(3R,4S)-3-[(R)-2-(tert-butyl-dimethyl-silanyloxy)-1-(5-chloro-pyridin-2-yloxy)-ethyl]-4-(3,4-difluoro-phenyl)-pyrrolidin-1-yl]-(6-methyl-pyridazin-4-yl)-methanone | 0.085 mmol, 0.050 g | C(C)(C)(C)[Si](OC[C@H](OC1=NC=C(C=C1)Cl)[C@H]1CN(C[C@@H]1C1=CC(=C(C=C1)F)F)C(=O)C1=CN=NC(=C1)C)(C)C | C29H35ClF2N4O3Si
reactant | TBAF | 1.0M, 0.10 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [(3R,4S)-3-[(R)-1-(5-Chloro-pyridin-2-yloxy)-2-hydroxy-ethyl]-4-(3,4-difluoro-phenyl)-pyrrolidin-1-yl]-(2-methyl-pyrimidin-5-yl)-methanone | 40 mg, 84% | ClC=1C=CC(=NC1)O[C@@H](CO)[C@H]1CN(C[C@@H]1C1=CC(=C(C=C1)F)F)C(=O)C=1C=NC(=NC1)C | C23H21ClF2N4O3
